US09428509B2
4-(2-((5-Chloro-1-methyl-1H-pyrazol-4-yl)amino)-4-cyclobutoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide
To a degassed mixture of 4-(2-chloro-4-cyclobutoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide (1 equiv), 5-chloro-1-methyl-1H-pyrazol-4-amine hydrochloride (1 equiv) and cesium carbonate (5 equiv) in 1,4-dioxane (0.09 M) was added tris(dibenzylideneacetone)dipalladium(0) (0.1 equiv) and (dicyclohexyl(2′,4′,6′-triisopropyl-[1,1′-biphenyl]-2-yl)phosphine) (0.2 equiv). The reaction was stirred at 100° C. for 16 h. The reaction mixture was cooled to room temperature, and concentrated. The residue was purified by silica gel chromatography (0-5% MeOH in DCM) to afford the title compound (23% yield). MS (ESI) m/z 582.4 [M]+.

reactant | 4-(2-chloro-4-cyclobutoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=C(C(=O)NC)C=C2)COCC[Si](C)(C)C)OC2CCC2 | C24H31ClN4O3Si
reactant | 5-chloro-1-methyl-1H-pyrazol-4-amine hydrochloride | 1 equiv | Cl.ClC1=C(C=NN1C)N
reactant | cesium carbonate | 5 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dicyclohexyl(2′,4′,6′-triisopropyl-[1,1′-biphenyl]-2-yl)phosphine | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | 1,4-dioxane | 0.09 M | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.1 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(2-((5-Chloro-1-methyl-1H-pyrazol-4-yl)amino)-4-cyclobutoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide | 23% yield | ClC1=C(C=NN1C)NC=1N=C(C2=C(N1)N(C=C2C2=CC=C(C(=O)NC)C=C2)COCC[Si](C)(C)C)OC2CCC2 | C28H36ClN7O3Si
